US04959366
(C) N,N-Bis-(4-methanesulphonamidophenethyl)methylamine
Methanesulphonic anhydride (1.29 g, 7.4 mmole) was added to a solution of N,N-bis-(4-aminophenethyl)methylamine (1.0 g, 3.7 mmole) and triethylamine (1 ml, 7.4 mmole) in dry methylene choride (50 ml) and stirred at room temperature for 2 hours. Methanesulphonic anhydride (1.29 g, 7.4 mmole) was added and the reaction mixture was stirred for a further 2 hours. The solvent was removed and the residue was taken up in methylene chloride, washed three times with aqueous sodium bicarbonate and three times with brine, dried (MgSO4), and evaporated. The resultant oil was chromatographed on silica eluting with methylene chloride containing methanol (0% up to 5%), which after combination and evaporation of the appropriate fractions, gave the title compound, yield 0.29 g, m.p. 170°-171°.

reactant | Methanesulphonic anhydride | 7.4 mmole, 1.29 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | N,N-bis-(4-aminophenethyl)methylamine | 3.7 mmole, 1.0 g | NC1=CC=C(CCCNCCCC2=CC=C(C=C2)N)C=C1 | C18H25N3
reactant | triethylamine | 7.4 mmole, 1 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulphonic anhydride | 7.4 mmole, 1.29 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene choride | 50 ml | C(Cl)Cl | CH2Cl2
product | N,N-Bis-(4-methanesulphonamidophenethyl)methylamine | CS(=O)(=O)NC1=CC=C(CCCNCCCC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C20H29N3O4S2
